US08895733B2
Intermediate 61: 6-Methoxy-nicotinic acid
Potassium tert-butoxide (323 mg, 2.88 mmol) and methanol (64 μL, 1.58 mmol) were taken up in anhydrous THF (6 mL) in a RBF under nitrogen, the mixture was stirred for 10 min at which time a solution of 6-chloropyridine-3-carbonitrile (200 mg, 1.44 mmol) in anhydrous THF (2 mL) was added slowly. The mixture was stirred at room temperature for 18 h. The reaction was treated with methanol (6 μL, 0.148 mmol), stirred for 2 h, then treated with methanol (20 μL, 0.494 mmol), stirred for 2 h, then treated with potassium tert-butoxide (50 mg, 0.446 mmol) and stirred for 18 h. The mixture was then concentrated in vacuo, suspended in sat. aq. sodium hydrogencarbonate solution and extracted with EtOAc (5×10 mL). The combined extracts were washed with brine (10 mL) and concentrated in vacuo to give the title compound was obtained (80 mg, 36%). 1H NMR (500 MHz, CDCl3) δ ppm 8.94 (1H, s), 8.22 (1H, dd, J=8.4, 1.8 Hz), 6.82 (1H, d, J=8.7 Hz), 4.03 (3H, s).

reactant | Potassium tert-butoxide | 2.88 mmol, 323 mg | CC(C)([O-])C.[K+]
reactant | methanol | 1.58 mmol, 64 μL | CO | CH4O
reactant | 6-chloropyridine-3-carbonitrile | 1.44 mmol, 200 mg | ClC1=CC=C(C=N1)C#N | C6H3ClN2
reactant | methanol | 0.148 mmol, 6 μL | CO | CH4O
reactant | methanol | 0.494 mmol, 20 μL | CO | CH4O
reactant | potassium tert-butoxide | 0.446 mmol, 50 mg | CC(C)([O-])C.[K+]
reactant | THF | 6 mL | C1CCOC1 | C4H8O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-nicotinic acid | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
